US05359066
To 4N hydrochloric acid solution (46 ml) in ethyl acetate was added ethyl 1-(N-tert-butoxycarbonyl-N-methylamino)-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate (9.20 g) under ice-cooling and the mixture was stirred at the same condition for 2 hours. Diisopropyl ether (90 ml) was added to the mixture to give a solid. The solid was collected by filtration, and dried over phosphorus pentaoxide under reduced pressure to give ethyl 6,7,8-trifluoro-1-methylamino-1,4-dihydro -4-oxoquinoline-3-carboxylate hydrochloride(6.26 g).

reactant | hydrochloric acid | 4N, 46 ml | Cl | ClH
reactant | ethyl 1-(N-tert-butoxycarbonyl-N-methylamino)-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate | 9.20 g | C(C)(C)(C)OC(=O)N(C)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)OCC | C18H19F3N2O5
reactant | Diisopropyl ether | 90 ml | C(C)(C)OC(C)C | C6H14O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 6,7,8-trifluoro-1-methylamino-1,4-dihydro -4-oxoquinoline-3-carboxylate hydrochloride | 6.26 g | Cl.FC=1C=C2C(C(=CN(C2=C(C1F)F)NC)C(=O)OCC)=O | InChI=1S/C13H11F3N2O3.ClH/c1-3-21-13(20)7-5-18(17-2)11-6(12(7)19)4-8(14)9(15)10(11)16;/h4-5,17H,3H2,1-2H3;1H
